US08633200B2
A solution of (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate (0.048 g, 0.102 mmol) and 1M NaOH (1.021 ml, 1.021 mmol) in MeOH (5 mL) was heated at reflux for h. Then, cooled, neutralized with 1M HCl (0.8 mL), concentrated and the residue was taken up in Et2O (25 mL), washed with water (5 mL), brine (5 mL), dried (MgSO4), filtered and concentrated to give (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (0.0426 g, 0.092 mmol, 90% yield) as light yellow solid. 1H NMR (500 MHz, CDCl3) δ: 7.95 (s, 1H), 7.86 (d, J=7.3 Hz, 1H), 7.42-7.32 (m, 2H), 6.77 (s, 1H), 5.46 (br. s., 1H), 3.43 (br. s., 1H), 2.97-2.84 (m, 2H), 2.72 (br. s., 3H), 1.98-1.70 (m, 4H), 1.58-1.32 (m, 4H), 1.28 (br. s., 9H). LCMS (M+H) calcd for C25H31ClN3O3: 456.21. found: 456.3. Examples 150-157 were prepared using the synthetic route similar to Scheme 10.

reactant | (S)-methyl 2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.102 mmol, 0.048 g | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1C1CCCCC1)N=C(C2)C2=CC(=CC=C2)Cl)C | C26H32ClN3O3
reactant | NaOH | 1.021 mmol, 1M, 1.021 ml | [OH-].[Na+]
reactant | HCl | 1M, 0.8 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(2-(3-chlorophenyl)-7-cyclohexyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.092 mmol, 0.0426 g, 90% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C1CCCCC1)N=C(C2)C2=CC(=CC=C2)Cl)C | C25H30ClN3O3
